US05530015
Then, 1.39 g of 3,5-dichloro-4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-1-benzyloxybenzene and 20 ml of methylene chloride were charged into a reaction vessel, and a solution of boron tribromide (1.63 g) in methylene chloride (10 ml) was added dropwise with stirring under ice cooling (-10° C. to 0° C.). After stirring for one hour under ice cooling, the mixture was poured into 10% hydrochloric acid and extracted twice with 50 ml of methylene chloride. Then, the organic layers were combined, washed with water, dried over anhydrous magnesium sulfate and concentrated to give a crude product. This crude product was subjected to silica gel column chromatography to give 1.03 g of 3,5-dichloro-4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenol (yield, 93%), m.p., 152.6° C.

reactant | 3,5-dichloro-4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-1-benzyloxybenzene | 1.39 g | ClC=1C=C(C=C(C1OC1=NC=C(C=C1Cl)C(F)(F)F)Cl)OCC1=CC=CC=C1 | C19H11Cl3F3NO2
reactant | boron tribromide | 1.63 g | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3,5-dichloro-4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenol | 1.03 g, 93% | ClC=1C=C(C=C(C1OC1=NC=C(C=C1Cl)C(F)(F)F)Cl)O | C12H5Cl3F3NO2
